US08445674B2
C) 3-{4-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-propionic acid
A solution of 3.50 g (8.47 mmol) of 3-{4-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-propionic acid ethyl ester in 80 ml of tetrahydrofuran/ethanol (1:1) was treated at 0° C. with 16.94 ml (16.94 mmol) of 1 M aq. lithium hydroxide solution, and kept 3 h at this temperature. The reaction was neutralized with cold aqueous 10% KHSO4 and extracted with EtOAc (3×). The organic phases were washed with aqueous 10% NaCl, dried over Na2SO4 and evaporated to yield 3.20 g (98%) of the titled compound as white solid. MS: 385.0 (MH+, 2Cl).

reactant | 3-{4-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-propionic acid ethyl ester | 8.47 mmol, 3.50 g | C(C)OC(CCN1CCN(CCC1=O)C(\C=C\C1=CC(=C(C=C1)Cl)Cl)=O)=O | C19H22Cl2N2O4
reactant | lithium hydroxide | 16.94 mmol, 1 M, 16.94 ml | [OH-].[Li+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | tetrahydrofuran ethanol | 80 ml | O1CCCC1.C(C)O
product | 3-{4-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-propionic acid | 3.20 g, 98% | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCN(C(CC1)=O)CCC(=O)O | C17H18Cl2N2O4
